US06649618B2
b) 2,2,2-trichloroethyl 3-(2,4-dioxo-3,4,7,8-tetrahydro-2H-thiopyrano-[4,3-d]pyrimidin-1-(5H)-yl)propyl(methyl)carbamate
A solution of 11.5 g (33.29 mmol) of 1-{3-[benzyl(methyl)amino]propyl}-1,5,7,8-tetrahydro-2H-thiopyrano[4,3-d]pyrimidine-2,4-(3H)-dione in 200 ml of acetonitrile is treated with 7.92 g (36.63 mmol) of 2,2,2-trichloroethyl chloroformate, and the mixture is stirred at room temperature for 30 minutes. The solvent is then removed under reduced pressure and the residue is purified by column chromatography (silica gel, cyclohexane/ethyl acetate 1:1). This gives 9.4 g (63% yield) of a colourless solid.

reactant | 1-{3-[benzyl(methyl)amino]propyl}-1,5,7,8-tetrahydro-2H-thiopyrano[4,3-d]pyrimidine-2,4-(3H)-dione | 33.29 mmol, 11.5 g | C(C1=CC=CC=C1)N(CCCN1C(NC(C2=C1CCSC2)=O)=O)C | C18H23N3O2S
reactant | 2,2,2-trichloroethyl chloroformate | 36.63 mmol, 7.92 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2,2,2-trichloroethyl 3-(2,4-dioxo-3,4,7,8-tetrahydro-2H-thiopyrano-[4,3-d]pyrimidin-1-(5H)-yl)propyl(methyl)carbamate | 9.4 g, 63% yield | O=C1NC(C2=C(N1CCCN(C(OCC(Cl)(Cl)Cl)=O)C)CCSC2)=O | C14H18Cl3N3O4S
